US08530475B2
1-(2-Methyl-1H-indol-4-yloxy)-3-[9-(1,2,3,4-tetrahydro-naphthalen-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-7-yl]-propan-2-ol
1-(2-Methyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol (0.05 g, 0.107 mmol), 10% Pd/C (0.05 g), methanol (15 mL) were placed in an hydrogenation bottle under H2 atmosphere (60 psi) and shaken overnight. The resulting mixture was filtered and the solvent evaporated under reduced pressure to yield a crude solid. The crude solid was purified with flash chromatography [20% Ethyl acetate/heptane] to yield the title compound as a residue.

reactant | 1-(2-Methyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol | 0.107 mmol, 0.05 g | CC=1NC2=CC=CC(=C2C1)OCC(CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2)O | C30H33N3O2
catalyst | Pd/C | 0.05 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | 1-(2-Methyl-1H-indol-4-yloxy)-3-[9-(1,2,3,4-tetrahydro-naphthalen-2-yl)-7,9-diaza-bicyclo[4.2.2]dec-7-yl]-propan-2-ol | CC=1NC2=CC=CC(=C2C1)OCC(CN1C2CCCCC(C1)N(C2)C2CC1=CC=CC=C1CC2)O | C30H39N3O2
